US07550478B2
tert-butyl 4-{2-hydroxy-2-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]ethyl}piperazine-1-carboxylate (Compound 346)
tert-Butyl 4-[2-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-2-hydroxyethyl]piperazine-1-carboxylate (65 mg, 0.138 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (58 mg, 0.28 mol), Pd2(dba)3 (6 mg, 0.007 mmol), (tBu3)PBF4 (4 mg, 0.014 mmol), and potassium fluoride (27 mg, 0.46 mmol) were combined in a sealed tube which was evacuated and backfilled with argon three times. Fully degassed DMF (1.5 mL) was added. The tube was placed in an oil bath at 115° C. and stirred for 19 hours. The reaction mixture was poured into an ethyl acetate/brine mixture and extracted with ethyl acetate. Combined organics were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via reverse phase HPLC (10-42% acetonitrile/water gradient, 0.05% trifluoroacetic acid modifier) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 9.00 (d, 1H); 8.55 (d, 1H); 8.23 (d, 1H); 7.91 (s, 1H); 7.80 (s, 1H); 7.76 (dd, 1H); 7.60 (d, 1H); 7.34 (d, 1H); 7.23 (d, 1H); 4.95 (d, 1H); 3.98 (s, 3H); 3.56-3.51 (m, 4H); 2.78-2.53 (m, 6H); 1.46 (s, 9H). Hydroxyl proton was not observed. LRMS (APCI) calc'd for (C29H34N5O4) [M+H]+, 516.3; found 516.3.

reactant | tert-Butyl 4-[2-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-2-hydroxyethyl]piperazine-1-carboxylate | 0.138 mmol, 65 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)O | C25H28ClN3O4
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.28 mol, 58 mg | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 0.46 mmol, 27 mg | [F-].[K+]
catalyst | Pd2(dba)3 | 0.007 mmol, 6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-{2-hydroxy-2-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]ethyl}piperazine-1-carboxylate | OC(CN1CCN(CC1)C(=O)OC(C)(C)C)C=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1 | C29H33N5O4
